US07368453B2
Synthesis of Cis-2,6-Dimethyl-Piperazine-1-Carbonitrile Hydrochloride
4.00 g of cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester (prepared according to the method E. Jon Jacobson et. al. J. Med. Chemistry. 1999, Vol. 42, 1123-144) in 91 mL of dichloromethane was treated with sodium bicarbonate (4.7 g) followed by addition of cyanogen bromide (7.5 mL). The reaction mixture was heated at reflux overnight, was filtered, and was purified by column chromatography (0 to 50% ethyl acetate/hexanes) to afford 3.9 g of the title compound as a white solid. 1H NMR (CDCl3, 300 MHz) δ ppm 1.33 (d, 6H, J=6.5 Hz), 1.44 (s, 9H), 2.54 (m, 2H), 3.09 (m, 2H), 4.09 (m, 2H); 13C NMR (CDCl3, 75 MHz) 16.70 (2C), 28.54 (3C), 53.86 (4C), 80.86, 114.10, 154.22.

reactant | cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester | 4.00 g | C(C)(C)(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C11H22N2O2
reactant | sodium bicarbonate | 4.7 g | C([O-])(O)=O.[Na+]
reactant | cyanogen bromide | 7.5 mL | N#CBr | CBrN
reactant | dichloromethane | 91 mL | ClCCl | CH2Cl2
product | Cis-2,6-Dimethyl-Piperazine-1-Carbonitrile Hydrochloride | 3.9 g | Cl.C[C@@H]1N([C@@H](CNC1)C)C#N | InChI=1S/C7H13N3.ClH/c1-6-3-9-4-7(2)10(6)5-8;/h6-7,9H,3-4H2,1-2H3;1H/t6-,7+;
